US03959322
13β-Ethyl-17β-nicotinoyloxy-gon-4-en-3-one
Reflux 13β-ethyl-17β-hydroxy-gon-4-en-3-one (1 g.) with nicotinic anhydride (2 g.) in pyridine (20 cc.) for 3 hours. Cool, add water, evaporate the mixture to dryness and extract with benzene. Wash, dry and evaporate the extracts to a residue and recrystallize from methanol to obtain the title compound; ultraviolet absorption peak at 239 mμ (ε20,000); infrared absorption peaks at 5.81, 6.00, 6.28 μ.

reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 1 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | nicotinic anhydride | 2 g | C(C1=CN=CC=C1)(=O)OC(C1=CN=CC=C1)=O | C12H8N2O3
reactant | water | O | H2O
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
product | 13β-Ethyl-17β-nicotinoyloxy-gon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(C2=CN=CC=C2)=O | C25H31NO3
